US09416111B2
To a solution of ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}-2-methylcyclohexanecarboxylate, isomer 1 (22 mg, 0.044 mmol) in THF (2 mL) and water (0.5 mL) was added lithium hydroxide monohydrate (5.0 mg, 0.13 mmol). The reaction mixture was stirred for 8 hours at 60° C. and then cooled to room temperature. The pH of the mixture was adjusted to pH 2 by adding aqueous hydrochloric acid, and then the mixture was diluted with brine and extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by prep-HPLC to give rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}-2-methylcyclohexanecarboxylic acid. MS ESI calc'd. for C26H30F2N5O2 [M+H]+ 482. found 482. 1H NMR: (400 MHz, DMSO-d6) δ 10.06 (s, 1H), 8.97 (s, 2H), 8.72 (s, 1H), 8.00 (s, 1H), 7.59 (s, 1H), 7.22 (s, 1H), 7.08-7.07 (m, 1H), 6.88 (t, J=54.4 Hz, 1H), 2.79-2.76 (m, 1H), 2.36 (s, 3H), 2.07-1.43 (m, 8H), 1.24-1.23 (m, 3H), 0.92-0.91 (m, 1H), 0.85-0.83 (m, 3H).

reactant | ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}-2-methylcyclohexanecarboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(C)C1C[C@@H]([C@@H](CC1)C(=O)OCC)C)F | C28H33F2N5O2
reactant | lithium hydroxide monohydrate | 0.13 mmol, 5.0 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethyl}-2-methylcyclohexanecarboxylic acid | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(C)C1C[C@@H]([C@@H](CC1)C(=O)O)C)F | C26H29F2N5O2
